US07012077B2
A solution of 257.6 g (982 mmol) triphenylphosphine in 1 l CH2Cl2 was treated with 162.8 g (491 mmol) tetrabromomethane (the reaction heated up to reflux and was then cooled with an ice bath) and after 40 min at RT with 157.4 ml (1129 mmol) triethylamine (the reaction heated up to reflux and became dark violet). After cooling (0° C.), 77.96 g (corresponds to 245.5 mmol) of crude trans-(4-Formyl-cyclohexylmethyl)-methyl-carbamic acid tert-butyl ester in 600 ml CH2Cl2 were added during 20 min. The solution was stirred for 20 h at RT, evaporated and filtered through silica gel (deactivated with hexane/0.5% Et3N) with hexane/Et2O 99:1 to 4:1 as eluent to yield 61.5 g (61%) of trans-[4-(2,2-Dibromo-vinyl)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester, MS: 409 (M, 2Br).

reactant | triphenylphosphine | 982 mmol, 257.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 491 mmol, 162.8 g | BrC(Br)(Br)Br | CBr4
reactant | triethylamine | 1129 mmol, 157.4 ml | C(C)N(CC)CC | C6H15N
reactant | trans-(4-Formyl-cyclohexylmethyl)-methyl-carbamic acid tert-butyl ester | 245.5 mmol, 77.96 g | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)C=O)=O | C14H25NO3
solvent | CH2Cl2 | 1 l | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
product | trans-[4-(2,2-Dibromo-vinyl)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester | 61.5 g, 61% | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)C=C(Br)Br)=O | C15H25Br2NO2
